* C:\Users\João Pedro\Desktop\Modulador\circuit.asc
* Generated by LTspice 24.1.10 for Windows.
R1 N002 N001 700k
C1 N002 N001 2p
R2 N001 N005 1µ
I1 N005 0 PWL file="C:\Users\João Pedro\Desktop\Modulador\testegenerate_1k.txt" AC 1
X§U1 0 N001 3v3 0 N002 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
V3 V_ref 0 SINE(1.65 1.65 50k)
R5 V_ref 0 1
R7 N007 N002 4.7k
R8 N006 N007 8.2k
C4 N003 N007 68p
C5 N004 N007 0.01µ
R9 N003 N004 4.7k
X§U6 N006 N004 3v3 0 N003 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
X§U5 N003 N006 3v3 0 V_comp 0 LT1015 ;§pnba In+)In-)VCC)VEE)OUT+)LATCH
V2 N006 0 1.65
V1 3v3 0 3.3
.tran 0 0.002 0 1u
.lib LT1015.sub
.lib UniversalOpAmp1.lib
.backanno
.end
